US05736487
6(a) 2-Bromomethyl-6-methoxybenzothiazole
17.4 mg of dibenzoyl peroxide were added to a solution of 0.8 ml of 2-methyl-6-methoxybenzothiazole and 1.05 g of N-bromosuccinimide in 20 ml of carbon tetrachloride at room temperature and the resulting mixture was stirred under reflux for 5 hours. At the end of this time, the mixture was allowed to cool to room temperature and then extracted with methylene chloride. The resulting extract was washed consecutively with a saturated aqueous sodium sulfite solution, water and an aqueous sodium chloride solution and then dried over sodium sulfate. The solvent was then removed by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel using an 8:1 by volume mixture of hexane and ethyl acetate, to give 649.3 mg (yield 47%) of the title compound as a solid having a melting point of 78° to 81° C.

reactant | dibenzoyl peroxide | 17.4 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2-methyl-6-methoxybenzothiazole | 0.8 ml | CC=1SC2=C(N1)C=CC(=C2)OC | C9H9NOS
reactant | N-bromosuccinimide | 1.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-methoxybenzothiazole | 649.3 mg, yield 47% | BrCC=1SC2=C(N1)C=CC(=C2)OC | C9H8BrNOS
